US08633212B2
To a solution of 3-(1-oxo-1,1′,3,3′-tetrahydro-2,2′-spirobi[indene]-6-yl)benzonitrile (34 mg, 0.1 mmol) in DCM (5 mL) was added TiCl4 (76 mg, 0.4 mmol) dropwise, the mixture was stirred at 50° C. at Ar2 under microwave for 5 minutes, N,N′-methanediylidenebis(1,1,1-trimethylsilanamine) (74 mg, 0.4 mmol) was added dropwise. The mixture was stirred at 60° C. at Ar2 under microwave for 10 minutes and poured into ice-water (10 mL). The aqueous layer was extracted with CH2Cl2, which was combined with the organic layer. The organic layer was dried and concentrated to give crude ((Z)—N-(5-(3-cyanophenyl)-1′,3′-dihydro-2,2′-spirobi[indene]-3(1H)-ylidene) cyana mide (36 mg, 99%).

reactant | 3-(1-oxo-1,1′,3,3′-tetrahydro-2,2′-spirobi[indene]-6-yl)benzonitrile | 0.1 mmol, 34 mg | O=C1C2(CC3=CC=C(C=C13)C=1C=C(C#N)C=CC1)CC1=CC=CC=C1C2 | C24H17NO
reactant | N,N′-methanediylidenebis(1,1,1-trimethylsilanamine) | 0.4 mmol, 74 mg | C(=N[Si](C)(C)C)=N[Si](C)(C)C | C7H18N2Si2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.4 mmol, 76 mg | Cl[Ti](Cl)(Cl)Cl
product | (Z)—N-(5-(3-cyanophenyl)-1′,3′-dihydro-2,2′-spirobi[indene]-3(1H)-ylidene) cyana mide | 36 mg, 99% | C(#N)C=1C=C(C=CC1)C=1C=C2\C(\C3(CC2=CC1)CC1=CC=CC=C1C3)=N/C#N | C25H17N3
